* V2164 VCA cell
* note: this subcircuit was found in a post from pichenettes on the MI forum
.SUBCKT V2164 IN OUT CV
* The two transistors in the input's differential pair have the same base
* current, hence the same Vbe. The second transistor is referenced to
* ground so IN is virtually grounded.
V1 IN 0 0
* Models 5k impedance for the CV input
R2 CV 0 5k
* Stability network
R3 IN 1 560
C1 1 0 560p
* Current gain expression
*G1 OUT 0 VALUE={-I(V1)*PWR(10, -V(CV) * 1.5)}
G1 OUT 0 VALUE={-I(V1)*PWR( 10, -V(CV) / ( 33m * (1+0.0033*ABS(temp-25))) * 0.05 )}
.ENDS
